US05514680
3,4-Bis(trifluoromethyl)aniline
A mixture of 261 mg (1.00 mmol) of 3,4-bis(trifluoromethyl)nitrobenzene and 989 mg (5.23 mmol) of SnCl2 in 6 mL of ethanol was heated at 70° C. for 2 h. It was evaporated to dryness and the residue was treated with 1N NaOH to pH=13. White precipitate was observed. The mixture was extracted by CHCl3 (4×8 mL). The extract was dried (MgSO4) and evaporated to leave 228 mg (99%) of oil. 1H NMR (CDCl3), 4.167 (sb, 2), 6.803 (d, 1, J=7.41), 7.026 (s, 1), 7.579 (d, 1, J=8.58). 19F NMR (CDCl3), 55.014 (q, 3), 56.919 (q, 3).

reactant | 3,4-bis(trifluoromethyl)nitrobenzene | 1.00 mmol, 261 mg | FC(C=1C=C(C=CC1C(F)(F)F)[N+](=O)[O-])(F)F | C8H3F6NO2
reactant | SnCl2 | 5.23 mmol, 989 mg | Cl[Sn]Cl
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3,4-Bis(trifluoromethyl)aniline | 228 mg, 99% | FC(C=1C=C(N)C=CC1C(F)(F)F)(F)F | C8H5F6N
